US07687502B2
[6-(2-Chloro-6-(methylsulfonylamino)phenoxy)-quinazolin-4-yl]-(1-methyl-1H-pyrazol-3-yl)-amine
The compound of Example 98 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using N-(3-chloro-2-fluorophenyl)methanesulfonamide, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | N-(3-chloro-2-fluorophenyl)methanesulfonamide | ClC=1C(=C(C=CC1)NS(=O)(=O)C)F | C7H7ClFNO2S
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | [6-(2-Chloro-6-(methylsulfonylamino)phenoxy)-quinazolin-4-yl]-(1-methyl-1H-pyrazol-3-yl)-amine | ClC1=C(OC=2C=C3C(=NC=NC3=CC2)NC2=NN(C=C2)C)C(=CC=C1)NS(=O)(=O)C | C19H17ClN6O3S
